US06139596
Preparation of N-hydroxymethyl-3,4-dimethylpyrazole
96 g (1.0 mol) of 3,4-dimethylpyrazole in 50 ml of methanol were dissolved in 100 g (1.0 mol) of formalin solution (30%) at room temperature. Water and methanol were then evaporated. The title compound remained as a white solid (yield 95%).

reactant | 3,4-dimethylpyrazole | 1.0 mol, 96 g | CC1=NNC=C1C | C5H8N2
reactant | formalin | 1.0 mol, 100 g | C=O | CH2O
solvent | methanol | 50 ml | CO | CH4O
product | N-hydroxymethyl-3,4-dimethylpyrazole | yield 95% | OCN1N=C(C(=C1)C)C | C6H10N2O
